*******************************************************************
* SIEMENS Discrete & RF Semiconductors                            *
* DIODE SPICE LIBRARY                                             *
*                                                                 *
* Filename: s-diode.lib                                           *
* Version:  4.3                                                   *
* Date:     September 1998                                        *
*******************************************************************
* This library contains the following SIEMENS Diodes:             *
*                                                                 *
* BA582      BA592      BA595      BAL74      BAL99      BAR64    *
* BAR74      BAR99      BAS116     BAS125     BAS240A    BAS16    *
* BAS21      BAS28      BAS40      BAS70      BAT14-098  BAT15-03W*
* BAT15-04   BAT15-098  BAT15-099  BAT15-099R BAT18      BAT60A   *
* BAT62      BAT63      BAT64      BAT65      BAT66      BAT68    *
* BAT165     BAV70      BAV74      BAV99      BAW100     BAW101   *
* BAW56      BAW78D     BB515      BB535      BB545      BB639    *
* BB804      BB814      BB833      BB914      SMBD2835   SMBD2836 *
* SMBD2837   SMBD2838   SMBD6050   SMBD6100   SMBD7000   SMBD914  *
*                                                                 *
*******************************************************************
*****************************************************************
* BAT240A Diode Chip Model
.MODEL D364/SIE D(IS=146N RS=2.18 N=1.07 XTI=4.25 EG=.650 
+ CJO=57.0P M=.495 VJ=.390 FC=.500 BV=240 IBV=5.00U TT=120P)
* Extracted By: 
* SIEMENS Semiconductors 
* HL HF PE SIL
* J.P. Schaffer
* Date:
* 6. May 1998 
*****************************************************************
* BAT60A Diode Model
.MODEL BAT60A/SIE D(IS=121U RS=0.158 N=1.04 XTI=2.06 EG=.500
+ CJO=52.5P M=.250 VJ=.280 FC=.500 BV=8.0 IBV=1.00M TT=10P)
***************************************************************** 
* Attention! Model works for Temp < 110°C only                  *
*****************************************************************
* Extracted By: 
* SIEMENS Semiconductors 
* HL HF PE SIL
* J.P. Schaffer
* Date:
* 9. September 1998 
*****************************************************************
* BAT165 Diode Model
.MODEL BAT165/SIE D(IS=51.5N RS=0.257 N=1.03 XTI=3.0 EG=.680
+ CJO=39.0P M=.475 VJ=.410 FC=.500 BV=40 IBV=10.00U TT=10P)
* Extracted By: 
* SIEMENS Semiconductors 
* HL HF PE SIL
* J.P. Schaffer
* Date:
* 3. September 1998 
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAS16 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAS16C/SIE 1 2
D    3 4 BAS16/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAS16/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAR99 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAR99C/SIE 1 2
D    3 4 BAR99/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAR99/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAV70 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAV70C/SIE 1 2
D    3 4 BAV70/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAV70/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAV74 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAV74C/SIE 1 2
D    3 4 BAV74/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAV74/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAV99 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAV99C/SIE 1 2
D    3 4 BAV99/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAV99/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAW56 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAW56C/SIE 1 2
D    3 4 BAW56/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAW56/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAW100 (SOT-23)                   *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAW100C/SIE 1 2
D    3 4 BAW100/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAW100/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAL74 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAL74C/SIE 1 2
D    3 4 BAL74/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAL74/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAL99 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAL99C/SIE 1 2
D    3 4 BAL99/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAL99/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAR74 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAR74C/SIE 1 2
D    3 4 BAR74/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAR74/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAS28 (SOT-23)                    *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAS28C/SIE 1 2
D    3 4 BAS28/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAS28/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD914 (SOT-23)                  *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD914C/SIE 1 2
D    3 4 SMBD914/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD914/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD2835 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD2835C/SIE 1 2
D    3 4 SMBD2835/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD2835/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD2836 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD2836C/SIE 1 2
D    3 4 SMBD2836/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD2836/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD2837 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD2837C/SIE 1 2
D    3 4 SMBD2837/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD2837/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD2838 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD2838C/SIE 1 2
D    3 4 SMBD2838/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD2838/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD6050 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD6050C/SIE 1 2
D    3 4 SMBD6050/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD6050/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD6100 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD6100C/SIE 1 2
D    3 4 SMBD6100/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD6100/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE SMBD7000 (SOT-23)                 *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT SMBD7000C/SIE 1 2
D    3 4 SMBD7000/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL SMBD7000/SIE D
+ IS  =  2.7838E-09
+ N   =  1.8703
+ RS  =  1.3548
+ EG  =  1.0637
+ XTI =  1.5000
+ CJO =  0.6000E-12
+ VJ  =  0.2000
+ M   =  0.1000
*****************************************************************
* SPICE2G6 MODEL OF THE DIODE BAW101  (SOT-23)                  *
* REV: 98.1                  DANALYSE GMBH BERLIN (27.07.1998)  *
*****************************************************************
.SUBCKT BAW101C/SIE 1 2
D    3 4 BAW101/SIE
L1   1 3 0.350N
L2   4 2 0.350N
.ENDS
.MODEL BAW101/SIE D
+ IS  =  0.2583E-12
+ N   =  1.1790
+ RS  =  3.0000
+ EG  =  1.1073
+ XTI =  4.4349
+ CJO =  6.2000E-12
+ VJ  =  0.7000
+ M   =  0.5000
*****************************************************************
.MODEL BA582/SIE D(IS=185F RS=.30 N=1.305 BV=70 IBV=.1N
+ CJO=1.17P VJ=.12 M=.096 TT=125N)
* SIEMENS 40 Volt 125ns  Si-PIN-Switch  17-03-1996 Moschovis
*****************************************************************
.MODEL BA592/SIE D(IS=185F RS=.30 N=1.305 BV=70 IBV=.1N
+ CJO=1.17P VJ=.12 M=.096 TT=125n)
* SIEMENS 40 Volt 125ns  Si-PIN-Switch  17-03-1996 Moschovis
*****************************************************************
.MODEL BA595/SIE D(IS=1.355n RS=2.6 N=2.04 BV=50 IBV=5u
+ CJO=0.35P VJ=.8 M=1.2 TT=1.6u)
* SIEMENS 50 Volt 1.6us  Si-PIN-Switch  17-03-1997 Moschovis
*****************************************************************
.MODEL BAR64/SIE D(IS=880p RS=.9 N=1.305 BV=70 IBV=.1N
+ CJO=0.33P VJ=.8 M=.2 TT=1.25u)
* SIEMENS 40 Volt 125ns  Si-PIN-Switch  17-03-1996 Moschovis
*****************************************************************
.MODEL BAS116/SIE D(
+       AF= 1.00E+00    BV= 7.50E+01   CJO= 1.83E-12    EG= 1.11E+00
+       FC= 5.00E-01   IBV= 1.00E-04    IS= 1.48E-13    KF= 0.00E+00
+        M= 2.62E-01     N= 1.33E+00    RS= 8.48E-01    TT= 8.66E-09
+       VJ= 3.44E-01   XTI= 3.00E+00) 
*****************************************************************
.MODEL BAS125/SIE D(IS=1.45N RS=12 N=1.03 XTI=1.6 EG=.68
+ CJO=.95P M=.2 VJ=.24 FC=.5 BV=25 IBV=100n TT=25P)
* ISR=15n NR=4k IKF=10m
* for 27C reverse current simulation use GMIN=1e-9
* 17.12.1993 SIEMENS PD1 KURTH
*****************************************************************
.MODEL BAS21/SIE D(
+       AF= 1.00E+00    BV= 2.50E+02   CJO= 6.64E-13    EG= 1.11E+00
+       FC= 5.00E-01   IBV= 1.00E-04    IS= 6.42E-09    KF= 0.00E+00
+        M= 1.00E-01     N= 1.98E+00    RS= 9.12E-01    TT= 7.21E-08
+       VJ= 2.00E+00   XTI= 3.00E+00)
*****************************************************************
.MODEL BAS40/SIE D(IS=8N RS=7.8 N=1.04 XTI=1.8 EG=.68 
+ CJO=3P M=.42 VJ=.4 FC=.5 BV=40 IBV=100n TT=25P)
* ISR=5n NR=1k IKF=10m
* for 27C reverse current simulation use: GMIN=1e-9
* 17.12.1993 SIEMENS PD1 KURTH
*****************************************************************
.MODEL BAS70/SIE D(IS=3N N=1.06 RS=29 XTI=1.8 EG=.68 
+ CJO=1.55P M=.29 VJ=.36 FC=.5 BV=70 IBV=100n TT=25P)
* ISR=2.5n NR=1k IKF=5m
* for 27C reverse current simulation use: GMIN=.5e-9
* 17.12.1993 SIEMENS PD1 KURTH
*****************************************************************
.MODEL BAT14-098/SIE D(Is=77p N=1.027 Rs=4 Xti=1.8 Eg=.68 Cjo=270f M=.078
+ Vj=.25 Fc=.5 Bv=4 Ibv=5u Tt=25p)
* Case SOD123, single diode 
* Add R=3.3MEG parallel for better IR and R0 simulation
* 29.11.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
.MODEL BAT15-099R/SIE D(Is=150n N=1.04 Rs=2.6 Xti=1.8 Eg=.68 Cjo=365f M=.061
+ Vj=.12 Fc=.5 Bv=4 Ibv=10u Tt=25p)
* Case SOT143, 4-diode-chip-ring 1-3-2-4-1, I/O connection 1-2 / 4-3 
* Data for each diode, add R=1.5MEG parallel to each diode for better IR and
* R0 simulation
* 28.10.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
.MODEL BAT15-03W/SIE D(Is=130n N=1.08 Rs=4.5 Xti=1.8 Eg=.68 Cjo=260f M=.047
+ Vj=.11 Fc=.5 Bv=4 Ibv=10u Tt=25p)
* Case SOD323, single diode
* Add R=3.3MEG parallel for better IR and R0 simulation
* 10.11.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
.MODEL BAT15-099/SIE D(Is=130n N=1.08 Rs=4.5 Xti=1.8 Eg=.68 Cjo=285f M=.043
+ Vj=.11 Fc=.5 Bv=4 Ibv=10u Tt=25p)
* Case SOT143, 2 diodes, connection pins 4-1 / 2-3
* Data for each diode, add R=3.3MEG parallel to each diode for better IR and
* R0 simulation
* 10.11.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
.MODEL BAT15-098/SIE D(Is=130n N=1.08 Rs=4.5 Xti=1.8 Eg=.68 Cjo=285f M=.043
+ Vj=.11 Fc=.5 Bv=4 Ibv=10u Tt=25p)
* Case SOD123, single diode 
* Add R=3.3MEG parallel for better IR and R0 simulation
* 10.11.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
.MODEL BAT15-04/SIE D(Is=130n N=1.08 Rs=4.5 Xti=1.8 Eg=.68 Cjo=260f M=.047
+ Vj=.11 Fc=.5 Bv=4 Ibv=10u Tt=25p)
* Case SOT23, 2 diodes, connection pins 1-3 / 3-2
* Data for each diode, add R=3.3MEG parallel to each diode for better IR and
* R0 simulation
* 10.11.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
* BAT18 Diode Model
.MODEL BAT18/SIE D(IS=185F RS=.30 N=1.305 BV=70 IBV=.1N
+ CJO=1.17P VJ=.12 M=.096 TT=125N)
* SIEMENS 40 Volt 125ns  Si-PIN-Switch  17-03-1996 Moschovis
*****************************************************************
* BAT62 Diode Model
.MODEL BAT62/SIE D(IS=120N RS=200 N=1.04 XTI=1.8 EG=.68
+ CJO=.35P M=.14 VJ=.4 FC=.5 BV=40 IBV=5U TT=25P)
* for 27C reverse current simulation use: GMIN=3e-8
* 20.12.1993 SIEMENS PD1 KURTH
*****************************************************************
* BAT63 Diode Model
.MODEL BAT63/SIE D(IS=656N RS=1.1 N=1.041 XTI=2.8 EG=1.1
+ CJO=.4814P M=.10 VJ=1.249 FC=.5 BV=4 IBV=5U TT=25P)
* 20.03.1997 SIEMENS PD1 Moschovis
*****************************************************************
.MODEL BAT64/SIE D(
+       AF= 1.00E+00    BV= 3.00E+01   CJO= 6.59E-12    EG= 1.11E+00
+       FC= 5.00E-01   IBV= 1.00E-04    IS= 6.97E-09    KF= 0.00E+00
+        M= 3.96E-01     N= 1.01E+00    RS= 1.84E+00    TT= 1.00E-10
+       VJ= 3.42E-01   XTI= 3.00E+00)
*****************************************************************
* BAT65 Diode Model
.MODEL BAT65/SIE D(Is=80n N=1.02 Rs=0.2152 Xti=5 Eg=1.11 Cjo=31.4p M=0.6196
+ Vj=.8 Fc=.5 Bv=40 Ibv=100u TT=60p)
* Case SOT223, single diode
* 26.09.1996 SIEMENS HL EH PD 1 Moschovis
*****************************************************************
* BAT66 Diode Model
.MODEL BAT66/SIE D(Is=243.5n N=1.001 Rs=0.1401 Xti=3 Eg=1.11 Cjo=170.5p M=0.548
+ Vj=.4803 Fc=.5 Bv=30 Ibv=100u TT=30p)
* Case SOT223, single diode
* 26.09.1996 SIEMENS HL EH PD 1 Moschovis
*****************************************************************
* BAT68 Diode Model
.MODEL BAT68/SIE D(IS=8N RS=2 N=1.05 XTI=1.8 EG=.68
+ CJO=.77P M=.075 VJ=.1 FC=.5 BV=8 IBV=1U TT=25P)
* 23.12.1993 SIEMENS PD1 KURTH
*****************************************************************
.MODEL BAW78D/SIE D(
+       AF= 1.00E+00    BV= 4.00E+02   CJO= 5.40E-12    EG= 1.11E+00
+       FC= 5.00E-01   IBV= 1.00E-04    IS= 3.08E-11    KF= 0.00E+00
+        M= 4.62E-01     N= 1.51E+00    RS= 4.04E-01    TT= 1.44E-06
+       VJ= 8.00E-01   XTI= 3.00E+00)
*****************************************************************
* BB515 Diode Model
.MODEL BB515/SIE D(IS=2F RS=.05 N=1.045 BV=32 IBV=100N XTI=3 EG=1.11
+ CJO=25.5P VJ=2.5 M=1 TT=14.4N)
* Hyperabrupt Diode, M = f(VR)! Above approximation for Capacitance in 
* VR-range 1..28V
* VR-range 0..6V: CJO=25.82P VJ=1.59 M=0.722
* VR-range 0..5V: CJO=25.86P VJ=1.38 M=0.66
* VR-range 0..3V: CJO=25.87P VJ=1.167 M=0.59
* Reverse current simulation: ISR=4.1p NR=2
* For Capacitance Q-factor add RS=0.5 externally or (degrades VF/IF) 
* internally
* chip D190. 25.08.1994 SIEMENS HL EH PD1 Kurth
*****************************************************************
* BB535 Diode Model
.MODEL BB535/SIE D(IS=1.75E-15 N=1.043 RS=60E-3 XTI=3 EG=1.11 CJO=25.31E-12
+ M=1.064 VJ=3.022 FC=.5 BV=32 IBV=100E-9 TT=120E-9)
* hyperabrupt Diode, M=f(VR)! C-curve approximated between VR=1..28V
* VR range 0..6V: CJO=26.65pF VJ=1.51 M=0.69
* VR range 0..4V: CJO=26.7pF VJ=1.28 M=0.62
* Model includes Case capacitance Cc=0.11pF
* 07.09.96 SIEMENS PD1 Moschovis
*****************************************************************
* BB545 Diode Model
.MODEL BB545/SIE D(IS=110.11E-15 RS=0.24545 N=1.2034 XTI=3 EG=1.11
+CJo=38.264P M=0.87698 Vj=0.91294 FC=0 BV=30 IBV=5E-6 TT=80N)
* Model includes Case capacitance Cc=0.11pF
* 23.10.96 SIMENS HL EH PD 1 Moschovis
*****************************************************************
* BB639 Diode Model
.MODEL BB639/SIE D(IS=4E-15 N=1.035 RS=.12 XTI=3 EG=1.11 CJO=55.88E-12
+ M=1.286 VJ=2.922 FC=.5 BV=32 IBV=100E-9 TT=160E-9)
* hyperabrupt Diode, M=f(VR)! C-curve approximated between VR=1..28V
* VR range 0..6V: CJO=55.9pF VJ=2.08 M=0.94
* VR range 0..4V: CJO=55.9pF VJ=1.71 M=0.81
* 07.09.95 SIEMENS PD1
* Model includes Case capacitance Cc=0.11pF
*****************************************************************
* BB804 Diode Model
.MODEL BB804/SIE D(IS=48F N=1.13 RS=.18 XTI=3 EG=1.11 CJO=80.6P M=.47 
+ VJ=.8 FC=.5 BV=20 IBV=.1U TT=137N)
* T=27C 
* BB804-typical (group 2), SIEMENS HL EH PD1 KTH 25.07.94
*****************************************************************
* BB814 Diode Model
.MODEL BB814/SIE D(IS=7f N=1.012 RS=.18 XTI=3 EG=1.11 CJO=83.9p M=.775
+ VJ=1.6 FC=.5 BV=20 IBV=100n TT=137n)
*  IKF=1 ISR=10p NR=1K
* hyperabrupt Diode, M=f(VR)! C-curve approximated between VR=1..9V
* BB814-typical, SIEMENS HL EH PD1 KTH 
*****************************************************************
* BB833 Diode Model
.MODEL BB833/SIE D (IS=42.156E-15 N=1.1718 RS=.10785 XTI=3 EG=1.11 CJO=29.033E-12
+ M=0.90022 VJ=.39089 FC=.5 BV=32 IBV=5E-6 TT=120E-9)
* created using Parts release 6.3 on 02/19/97 at 09:16
* Parts is a MicroSim product.
*****************************************************************
* BB914 Diode Model 
.MODEL BB914/SIE D(IS=10.00E-15 N=1.020 RS=.28 IKF=0 XTI=3 EG=1.11
+ CJO=75.54E-12 M=1.161 VJ=3.445 FC=.5 ISR=100E-12 NR=2 BV=20 IBV=100E-9
+ TT=137.0E-9)
* created using Parts release 6.1 on 06/20/95 at 17:40
* Parts is a MicroSim product.
* BB914 - typical , SIEMENS HL EH PD 1 MOSCHOVIS
*****************************************************************
